US09326973B2
To a solution of ethyl 4-fluoro-3,3-dimethyl-2-oxobutanoate (2.3 g, 13.05 mmol) in THF (20 mL) was added (S)-2-methylpropane-2-sulfinamide (1.899 g, 15.67 mmol) and tetraethoxytitanium (5.91 mL, 26.1 mmol). The reaction mixture was heated at 65° C. for 6 h. The reaction mixture was cooled down, diluted with EtOAc and sat. NaCl (40 mL) and stirred at rt for 0.5 h. The solid was filtered and washed with water and EtOAc. The filtrate was separated and the organic layer was washed with water, sat. NaCl, dried (MgSO4) and purified by flash chromatography (EtOAc/hexane) to afford (S)-ethyl 2-(tert-butylsulfinylimino)-4-fluoro-3,3-dimethylbutanoate (1.1 g). 1H NMR (400 MHz, CDCl3) δ ppm 4.46-4.53 (1H, m), 4.28-4.42 (3H, m), 1.59 (3H, s), 1.21-1.31 (15H, m).

reactant | ethyl 4-fluoro-3,3-dimethyl-2-oxobutanoate | 13.05 mmol, 2.3 g | FCC(C(C(=O)OCC)=O)(C)C | C8H13FO3
reactant | (S)-2-methylpropane-2-sulfinamide | 15.67 mmol, 1.899 g | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaCl | 40 mL | [Na+].[Cl-]
catalyst | tetraethoxytitanium | 26.1 mmol, 5.91 mL | C(C)O[Ti](OCC)(OCC)OCC
product | (S)-ethyl 2-(tert-butylsulfinylimino)-4-fluoro-3,3-dimethylbutanoate | 1.1 g | C(C)(C)(C)[S@](=O)N=C(C(=O)OCC)C(CF)(C)C | C12H22FNO3S
